US06989393B2
1-[1-(3,3-Diphenylpropyl)-piperidin-4-yl]benzotriazole
The procedure shown in Example 2 was followed except that 3,3-diphenylpropyl bromide (570 mg, 2.1 mmol), 4-benzotriazol-1-yl-piperidine hydrochloride (250 mg, 1.05 mmol), potassium carbonate (580 mg, 4.2 mmol) and DMF (5 ml) were used to give the title compound as a gum (170 mg, 0.43 mmol); NMR: 2.2 (m, 9H), 3.0 (m, 2H), 4.0 (m, 2H), 4.8 (m, 1H), 7.1 (m, 2H), 7.3 (m, 9H), 7.5 (t, 1H), 7.8 (d, 1H) and 8.05 (d, 1H); MS: 397.

reactant | 3,3-diphenylpropyl bromide | 2.1 mmol, 570 mg | C1(=CC=CC=C1)C(CCBr)C1=CC=CC=C1 | C15H15Br
reactant | 4-benzotriazol-1-yl-piperidine hydrochloride | 1.05 mmol, 250 mg | Cl.N1(N=NC2=C1C=CC=C2)C2CCNCC2
reactant | potassium carbonate | 4.2 mmol, 580 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[1-(3,3-Diphenylpropyl)-piperidin-4-yl]benzotriazole | 0.43 mmol, 170 mg | C1(=CC=CC=C1)C(CCN1CCC(CC1)N1N=NC2=C1C=CC=C2)C2=CC=CC=C2 | C26H28N4
